US08278331B2
To a solution of 4-(2-chloropyridin-4-yloxy)-3,5-difluoroaniline (3.0 g, 11.7 mmol) in a mixture of N,N-dimethyl-formamide and water (v/v=3:1, 80 mL) was added 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (3.6 g, 17.5 mmol), potassium phosphate (4.9 g, 23.4 mmol) and tetrakis(triphenylphosphine) palladium (0.7 g, 0.6 mmol). The mixture was degassed thoroughly, heated to 100° C. and stirred under nitrogen overnight. The solvent was removed under reduced pressure and the residue was purified by silica gel chromatography to give 3,5-difluoro-4-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)aniline (2.6 g, 74% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.36 (d, J=5.6 Hz, 1H), 8.28 (s, 1H), 7.98 (s, 1H), 7.24 (d, J=2.4 Hz, 1H), 6.64 (dd, J=5.6 Hz, J=2.4 Hz, 1H), 6.37 (d, J=10.8 Hz, 2H), 5.81 (s, 2H), 3.87 (s, 3H); MS (ESI): m/z 303.1 [M+H]+.

reactant | 4-(2-chloropyridin-4-yloxy)-3,5-difluoroaniline | 11.7 mmol, 3.0 g | ClC1=NC=CC(=C1)OC1=C(C=C(N)C=C1F)F | C11H7ClF2N2O
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 17.5 mmol, 3.6 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium phosphate | 23.4 mmol, 4.9 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | N,N-dimethyl-formamide | CN(C=O)C | C3H7NO
solvent | water | 80 mL | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium | 0.6 mmol, 0.7 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3,5-difluoro-4-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)aniline | 2.6 g, 74% yield | FC=1C=C(N)C=C(C1OC1=CC(=NC=C1)C=1C=NN(C1)C)F | C15H12F2N4O
